US06133460
A slurry of 7-hydroxy-4,8-dimethyl-3-phthalimidomethylcoumarin (649 mg, 1.86 mmol), potassium carbonate (320 mg, 2.60 mmol), potassium iodide (15 mg, 0.093 mmol), and 2,3-dichloro-1-propene (0.20 mL, 2.23 mmol) in DMF (15 mL) was stirred at 55-65° C. for 8 hours, allowed to cool to room temperature, then chilled in an ice water bath. The solid was filtered off to obtain the first crop of crude product (1.09 g). Half of the solvent was removed from the filtrate and after chilling, a second crop of crystals was obtained (33 mg). The solids were combined, dissolved in CH2Cl2, and washed with water several times. The organic layer was dried and evaporated to give 7-(beta-chloroallyloxy)-4,8-dimethyl-3-phthalimidomethylcoumarin, a white solid (690 mg, 87%). 1H NMR (CDCl3): δ 7.66-7.83 (m, 4H), 7.49 (d, J=9.1 Hz, 1H), 6.79 (d, J=8.8 Hz, 1H), 5.56 (s, 1H), 5.47 (s, 1H), 4.91 (s, 2H), 4.67 (s, 2H), 2.59 (s, 3H), 2.32 (s, 3H).

reactant | 7-hydroxy-4,8-dimethyl-3-phthalimidomethylcoumarin | 1.86 mmol, 649 mg | OC1=CC=C2C(=C(C(OC2=C1C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O)C | C20H15NO5
reactant | potassium carbonate | 2.60 mmol, 320 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.093 mmol, 15 mg | [I-].[K+]
reactant | 2,3-dichloro-1-propene | 2.23 mmol, 0.20 mL | ClC(=C)CCl | C3H4Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-(beta-chloroallyloxy)-4,8-dimethyl-3-phthalimidomethylcoumarin | ClC(COC1=CC=C2C(=C(C(OC2=C1C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O)C)=C | C23H18ClNO5
